US09145414B2
10% Palladium-carbon (500 mg) was added to a solution of 1-(1-methyl-1H-pyrazol-3-yl)-4-nitro-1H-indole obtained in the above-described Step 1 (625 mg) in ethyl acetate (20 ml) under nitrogen airflow. Then the reaction solution was stirred under hydrogen atmosphere at room temperature for 2 hours and a half. The insolubles were filtrated with celite, and then the solvent was evaporated under vacuum. The resultant residue was purified by column chromatography on silica gel (developing solvent:hexane-ethyl acetate) to obtain 1-(1-methyl-1H-pyrazol-3-yl)-1H-indol-4-amine.

reactant | 1-(1-methyl-1H-pyrazol-3-yl)-4-nitro-1H-indole | CN1N=C(C=C1)N1C=CC2=C(C=CC=C12)[N+](=O)[O-] | C12H10N4O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | Palladium-carbon | 500 mg | [C].[Pd]
product | 1-(1-methyl-1H-pyrazol-3-yl)-1H-indol-4-amine | CN1N=C(C=C1)N1C=CC=2C(=CC=CC12)N | C12H12N4
